US08975256B2
7-(5-Chloro-2-methoxyphenyl)-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 10-1)
A mixture of 7-bromo-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 9, 3.75 g, 11.5 mmol), 5-chloro-2-methoxyphenylboronic acid (2.57 g, 13.8 mmol), cessium carbonate (7.49 g, 23.0 mmol) and tetrakis(triphenylphosphine)palladium (0) (1.33 g, 1.16 mmol) was suspended in anhydrous N,N-dimethylformamide (70 ml) and stirred at 80° C. overnight under argon atmosphere. After cooling down, ethyl acetate (300 mL), diethylether (150 mL) and water (400 mL) were added and partitioned. The organic layer was washed with water (250 mL) and saturated brine (150 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (3.84 g) as a colorless amorphous product. (Yield 86%)

reactant | 7-bromo-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 11.5 mmol, 3.75 g | BrC1=CC=C2NC(C(N(C2=C1C(=O)OC)C)=O)(C)C | C13H15BrN2O3
reactant | 5-chloro-2-methoxyphenylboronic acid | 13.8 mmol, 2.57 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | carbonate | 23.0 mmol, 7.49 g | C([O-])([O-])=O
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.16 mmol, 1.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 400 mL | O | H2O
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
product | 7-(5-Chloro-2-methoxyphenyl)-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 3.84 g, Yield 86% | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1C(=O)OC)C)=O)(C)C)OC | C20H21ClN2O4
